US07538123B2
(1) (4-Allyl-5-methoxy-2-nitrobenzyloxy)-t-butyldimethylsilane
229 mg of 4-allyl-5-methoxy-2-nitrobenzyl alcohol was dissolved in 5 ml of N,N-dimethylformamide. Thereafter, 0.17 g of imidazole and 0.23 g of t-butyldimethylsilyl chloride were added to the reaction solution while cooling on ice. The obtained mixture was stirred at room temperature for 2 hours. Thereafter, 34 mg of imidazole and 46 mg of t-butyldimethylsilyl chloride were further added to the reaction solution. The obtained mixture was stirred at room temperature overnight. The reaction solution was diluted with ethyl acetate and then washed with a saturated ammonium chloride aqueous solution and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate), so as to obtain 330 mg of the subject compound.

reactant | 4-allyl-5-methoxy-2-nitrobenzyl alcohol | 229 mg | C(C=C)C1=CC(=C(CO)C=C1OC)[N+](=O)[O-] | C11H13NO4
reactant | imidazole | 0.17 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 0.23 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 34 mg | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 46 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-Allyl-5-methoxy-2-nitrobenzyloxy)-t-butyldimethylsilane | 330 mg | C(C=C)C1=CC(=C(CO[Si](C)(C)C(C)(C)C)C=C1OC)[N+](=O)[O-] | C17H27NO4Si
